US06512081B1
Preparation of Di(thiobenzoyl)Disulfide
The title compound was prepared by oxidizing an aqueous solution of dithiobenzoic acid sodium salt with a mild oxidizing agent, e.g. an aqueous solution of iodine.

reactant | dithiobenzoic acid sodium salt | [Na+].C(C1=CC=CC=C1)(=S)[S-]
reactant | iodine | II | I2
product | Di(thiobenzoyl)Disulfide | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
